US07268147B2
Preparation 39: [2-(Benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)phenyl]methanol
Borane dimethylsulfide complex (42.4 ml of 10M solution in tetrahydrofuran, 424 mmol) was added dropwise to a solution methyl-2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)benzoate (Preparation 40) (91.0 g, 189 mmol) in tetrahydrofuran (1600 ml). The resulting mixture was then heated to reflux for 2 hours and then cooled to 0° C. before quenching with methanol (270 ml). The mixture was left to stir at room temperature for 16 hours and then the solvent removed in vacuo. The residue was partitioned between dichloromethane (500 ml) and water (500 ml). The aqueous phase was separated and extracted with dichloromethane (500 ml) and the combined organic extracts washed with brine (500 ml), dried (magnesium sulfate) and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with cyclohexane:ethyl acetate (100:0 changing to 80:20, by volume) to give the title compound (68.7 g) as a colourless oil.

reactant | Borane dimethylsulfide | 424 mmol, 10M, 42.4 ml | CSC.B
reactant | methyl-2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)benzoate | 189 mmol, 91.0 g | COC(C1=C(C=CC(=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)OCC1=CC=CC=C1)=O | C23H31BrO4Si
solvent | tetrahydrofuran | 1600 ml | O1CCCC1 | C4H8O
product | [2-(Benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)phenyl]methanol | 68.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
